US06469188B1
3-(2-norbornyl)-6,6-dimethylfulvene.
Sodium methoxide (4.00 g, 74.0 mmol) was added to a solution of norbornylcyclopentadiene (8.00 g, 49.9 mmol) in 50 mL methanol. Acetone (15.8 g, 270 mmol) was added and the reaction stirred for 48 hours when 200 mL water and 100 mL diethyl ether were added. The organic layer was isolated and the aqueous layer was extracted with diethyl ether (4×50 mL). The organic layers were dried over MgSO4, filtered, and rotavapped to provide the crude product as a yellow oil, which was purified by in vacuo drying and passing through a short column of alumina: 8.18 g (81.8%). MS (GC-MS) m/z 200.3 (M+).

reactant | Sodium methoxide | 74.0 mmol, 4.00 g | C[O-].[Na+]
reactant | norbornylcyclopentadiene | 49.9 mmol, 8.00 g | C12(CCC(CC1)C2)C2=CC=CC2 | C12H16
reactant | Acetone | 270 mmol, 15.8 g | CC(=O)C | C3H6O
reactant | water | 200 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-(2-norbornyl)-6,6-dimethylfulvene | C12C(CC(CC1)C2)C=2C=CC(C2)=C(C)C | C15H20
